US06384033B1
1) 5-Fluoro-2-pyridinecarboxylic acid
To water (100 ml) were added 5-fluoro-2-methylpyridine (J. Med. Chem., 32, 1970(1989): 2.2 g, 20 mmol) and potassium permanganate (19.1 g, 120 mmol), and heated under reflux for 4 hours. The reaction mixture was filtrated and the filtrate was concentrated, acidified with KHSO4, extracted with ethyl acetate and the extract was dried over Na2SO4. The sol vent was evaporated to give the title compound (0.80 g; 28%).

reactant | 5-fluoro-2-methylpyridine | 20 mmol, 2.2 g | FC=1C=CC(=NC1)C | C6H6FN
reactant | potassium permanganate | 120 mmol, 19.1 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 100 ml | O | H2O
product | 5-Fluoro-2-pyridinecarboxylic acid | 0.80 g, 28% | FC=1C=CC(=NC1)C(=O)O | C6H4FNO2
